US06313312B1
4-(Hexylamino)-4-oxo-2-butenoic acid
Maleic anhydride (39.4 g, 0.40 mol) was partly dissolved in toluene (1 l) to form a milky suspension. N-hexylamine (53 ml, 0.40 mol) was diluted with toluene (500 ml) and added dropwise over a period of 1.5 h. After 2 h, the reaction mixture was filtered and the title compound was obtained as a Nvhite solid (76.4 g, 96%) after drying for 16 h in a vacuum oven at 40° C.

reactant | Maleic anhydride | 0.40 mol, 39.4 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | N-hexylamine | 0.40 mol, 53 ml | C(CCCCC)N | C6H15N
solvent | toluene | 1 l | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(Hexylamino)-4-oxo-2-butenoic acid | C(CCCCC)NC(C=CC(=O)O)=O | C10H17NO3
